US09359329B2
According to the process described in Example 2.2, starting with 0.5 g of 2-chloro-4-methoxypyridine and 0.75 g of benzophenone hydrazone, 0.76 g of 2-[2-(diphenylmethylidene)hydrazino]-4-methoxypyridine is obtained in the form of a yellow solid, which is used without further purification in the following step.

reactant | 2-chloro-4-methoxypyridine | 0.5 g | ClC1=NC=CC(=C1)OC | C6H6ClNO
reactant | benzophenone hydrazone | 0.75 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NN | C13H12N2
product | 2-[2-(diphenylmethylidene)hydrazino]-4-methoxypyridine | 0.76 g, Yield=73% | C1(=CC=CC=C1)C(=NNC1=NC=CC(=C1)OC)C1=CC=CC=C1 | C19H17N3O
